US05127936
Preparation of 2-Chloro-5-methyl-7-phenyl-1,2,4-triazolo[1,5-a]pyrimidine
To 2.0 g (8.9 mmol) of 5-methyl-7-phenyl-1,2,4triazolo[1,5-a]pyrimidin-2-amine stirring in 25 ml of concentrated hydrochloric acid, 1.2 g (17.4 mmol) of sodium nitrite dissolved in 4.0 ml of water was added dropwise at ambient temperature. After the addition, the reaction suspension was warmed at about 60° for 15 minutes followed by stirring another 10 minutes without heat. Ethyl acetate (150 ml) and excess water were added. The ethyl acetate layer was separated whereby a certain amount of insoluble material present was ignored and the extract washed with water (2X), saturated sodium bicarbonate, brine, dried over magnesium sulfate, and evaporated in vacuo to give a solid residue. Silica gel column chromatography (methylene chloride followed by 10:1 methylene chloride/ethyl acetate) afforded the title compound, m.p. 179°-181° C.

reactant | 5-methyl-7-phenyl-1,2,4triazolo[1,5-a]pyrimidin-2-amine | 8.9 mmol, 2.0 g | CC1=NC=2N(C(=C1)C1=CC=CC=C1)N=C(N2)N | C12H11N5
reactant | sodium nitrite | 17.4 mmol, 1.2 g | N(=O)[O-].[Na+]
reactant | Ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | hydrochloric acid | 25 ml | Cl | ClH
solvent | water | 4.0 ml | O | H2O
solvent | methylene chloride ethyl acetate | C(Cl)Cl.C(C)(=O)OCC
product | 2-Chloro-5-methyl-7-phenyl-1,2,4-triazolo[1,5-a]pyrimidine | ClC1=NN2C(N=C(C=C2C2=CC=CC=C2)C)=N1 | C12H9ClN4
